US07144906B2
5-(5-Methyl-2-phenyloxazol-4-yl)-1-pentanol
To 17 ml of dry ether, 550 mg of lithium aluminum hydride was added and 3.3 g of methyl 5-(5-methyl-2-phenyloxazol-4-yl)-1-pentanoate/10 ml of dry ether was added dropwise. After 1-hour-stirring at room temperature, the mixture was cooled with ice-cold water and 12 ml of tetrahydrofuran/0.7 ml of water was added dropwise gradually. Then, 0.7 ml of 1N sodium hydroxide and 2.5 ml of water were added and stirred for 15 minutes. The mixture was filtrated to remove insolubles and the filtrate was concentrated to provide 2.9 g of the objective compound as yellowish crystals. M.p. 40-42° C.

reactant | ether | 17 ml | CCOCC | C4H10O
reactant | lithium aluminum hydride | 550 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 5-(5-methyl-2-phenyloxazol-4-yl)-1-pentanoate | 10 ml, 3.3 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCCCC(=O)OC | C16H19NO3
reactant | sodium hydroxide | 1N, 0.7 ml | [OH-].[Na+]
solvent | water | 2.5 ml | O | H2O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 5-(5-Methyl-2-phenyloxazol-4-yl)-1-pentanol | 2.9 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCCCCO | C15H19NO2
